US07619101B2
A solution of 17.47 g crude 3-tert-butoxymethyl-4-fluoro-3-hydroxybutyric acid tert-butyl ester (from 64.85 mmol 1-tert-butoxy-3-fluoro-propan-2-one) in 20 mL trifluoroacetic acid was stirred at 40° C. for 30 min. The resulting brown solution was evaporated and the residue subjected to bulb-to-bulb distillation at 150-160° C./0.4 mbar to provide 8.40 g (96.6% from 1-tert-butoxy-3-fluoro-propan-2-one) 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one as yellow oil. 1H-NMR (CDCl3, 300 MHz): 4.46 (d, J=47, CH2F); 4.33 (AB with fine structure, J=10 and 2, —CH2—O); 3.33 (s br, OH); 2.70 (AB with fine structure, J=18, —CH2—C(O)).

reactant | 3-tert-butoxymethyl-4-fluoro-3-hydroxybutyric acid tert-butyl ester | 64.85 mmol, 17.47 g | C(C)(C)(C)OC(CC(CF)(O)COC(C)(C)C)=O | C13H25FO4
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one | 8.40 g, 96.6% | FCC1(CC(OC1)=O)O | C5H7FO3
